** VibroSense Block 06: MAC Linearity Base Testbench
** Called by run_all.py with weight parameter substitution
** Parameters: WB3, WB2, WB1, WB0 (0 or 1)
** Returns V(bl) at t=450ns

.lib "sky130_local.lib" tt

.param Vcm_val = 0.9
.param Vinp_val = 1.05

** Weight bits (substituted by runner: 0 or 1)
.param WB3 = 1
.param WB2 = 1
.param WB1 = 1
.param WB0 = 1

Vvdd vdd 0 dc 1.8
Vinp inp 0 dc {Vinp_val}
Vvcm vcm_src 0 dc {Vcm_val}

** ===== Phase Clocks =====
** s_resetb: LOW (0V) during reset (0-90ns) → PFET ON for precharge
** s_resetb: HIGH (1.8V) outside reset → PFET OFF
Vs_resetb s_resetb 0  PULSE(0 1.8  0n 1n 1n 90n  600n)
Vs_samp   s_samp   0  PULSE(0 1.8  100n 5n 5n 200n 600n)
Vs_sampb  s_sampb  0  PULSE(1.8 0  100n 5n 5n 200n 600n)
Vs_eval   s_eval   0  PULSE(0 1.8  310n 5n 5n 200n 600n)

** ===== Bitline =====
Cbl bl 0 1e-12
** Precharge bitline to Vcm: PFET gate=s_resetb (LOW during reset = ON)
MP_bl bl s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=8e-6 L=1.5e-7 nf=2

** ===== Bit 3 (8 x 50fF = 400fF) =====
** Cap top/bot precharge to Vcm during reset: PFET gate=s_resetb (LOW=ON during reset)
MP_rt3 cap3_top s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MP_rb3 cap3_bot s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
** Sample TG (cap_top <- inp when s_samp=1)
MN_s3 cap3_top s_samp   inp 0   sky130_fd_pr__nfet_01v8__model W=2e-6 L=1.5e-7 nf=1
MP_s3 cap3_top s_sampb  inp vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
** Caps (8 x 50fF)
C3a cap3_top cap3_bot 50e-15
C3b cap3_top cap3_bot 50e-15
C3c cap3_top cap3_bot 50e-15
C3d cap3_top cap3_bot 50e-15
C3e cap3_top cap3_bot 50e-15
C3f cap3_top cap3_bot 50e-15
C3g cap3_top cap3_bot 50e-15
C3h cap3_top cap3_bot 50e-15
** Eval switch: NFET, gate = s_eval * WB3 (B-source)
Bs_e3 s_eval3 0 V = {WB3} * V(s_eval)
MN_e3 bl s_eval3 cap3_bot 0 sky130_fd_pr__nfet_01v8__model W=4e-6 L=1.5e-7 nf=1

** ===== Bit 2 (4 x 50fF = 200fF) =====
MP_rt2 cap2_top s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MP_rb2 cap2_bot s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MN_s2 cap2_top s_samp   inp 0   sky130_fd_pr__nfet_01v8__model W=2e-6 L=1.5e-7 nf=1
MP_s2 cap2_top s_sampb  inp vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
C2a cap2_top cap2_bot 50e-15
C2b cap2_top cap2_bot 50e-15
C2c cap2_top cap2_bot 50e-15
C2d cap2_top cap2_bot 50e-15
Bs_e2 s_eval2 0 V = {WB2} * V(s_eval)
MN_e2 bl s_eval2 cap2_bot 0 sky130_fd_pr__nfet_01v8__model W=4e-6 L=1.5e-7 nf=1

** ===== Bit 1 (2 x 50fF = 100fF) =====
MP_rt1 cap1_top s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MP_rb1 cap1_bot s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MN_s1 cap1_top s_samp   inp 0   sky130_fd_pr__nfet_01v8__model W=2e-6 L=1.5e-7 nf=1
MP_s1 cap1_top s_sampb  inp vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
C1a cap1_top cap1_bot 50e-15
C1b cap1_top cap1_bot 50e-15
Bs_e1 s_eval1 0 V = {WB1} * V(s_eval)
MN_e1 bl s_eval1 cap1_bot 0 sky130_fd_pr__nfet_01v8__model W=4e-6 L=1.5e-7 nf=1

** ===== Bit 0 (1 x 50fF = 50fF) =====
MP_rt0 cap0_top s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MP_rb0 cap0_bot s_resetb vcm_src vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
MN_s0 cap0_top s_samp   inp 0   sky130_fd_pr__nfet_01v8__model W=2e-6 L=1.5e-7 nf=1
MP_s0 cap0_top s_sampb  inp vdd sky130_fd_pr__pfet_01v8__model W=4e-6 L=1.5e-7 nf=1
C0a cap0_top cap0_bot 50e-15
Bs_e0 s_eval0 0 V = {WB0} * V(s_eval)
MN_e0 bl s_eval0 cap0_bot 0 sky130_fd_pr__nfet_01v8__model W=4e-6 L=1.5e-7 nf=1

.tran 1n 520n

.control
  run
  meas tran vcap3t FIND V(cap3_top) AT=250n
  meas tran vcap3b FIND V(cap3_bot) AT=250n
  meas tran vbl_samp FIND V(bl) AT=250n
  meas tran vcap3t_e FIND V(cap3_top) AT=420n
  meas tran vcap3b_e FIND V(cap3_bot) AT=420n
  meas tran vbl_result FIND V(bl) AT=450n
  echo "VBL_RESULT=$&vbl_result"
  quit
.endc

.end
